### PR TITLE
feat(QuantumMechanics): Sobolev submodules of SpaceDHilbertSpace

### PR DESCRIPTION
**Pull request by adambornemann-glitch**
Add Mathematics/Distribution/Tempered.lean with the general API for the embedding Lp → 𝓢': Lp.toTemperedDistribution_injective, the _add/_smul/_zero simp lemmas, and Lp.smulLeftCLM_toTemperedDistribution_eq_iff (for a temperate-growth symbol g, the distributional identity g · φ = u holds iff g • φ =ᵐ u).

Add SpaceD/SobolevSubmodule.lean defining sobolevSubmodule d s (H^s as a submodule of SpaceDHilbertSpace d), with Schwartz-map membership, density, and antitonicity in s. Add the schwartzIncl_apply rfl-lemma to SchwartzSubmodule.lean.

### CODE REVIEW

File: Physlib/QuantumMechanics/HilbertSpaces/SpaceD/SchwartzSubmodule.lean [hunk 1]
```diff
@@ -50,6 +50,10 @@ def schwartzIncl {d : ℕ} (μ : Measure (Space d)) [μ.HasTemperateGrowth] :
     𝓢(Space d, ℂ) →L[ℂ] SpaceDHilbertSpace d μ :=
   toLpCLM ℂ ℂ 2 μ
 
+/-- Applying `schwartzIncl` to a Schwartz map `g` gives its `Lp` class `g.toLp 2 μ`. -/
+lemma schwartzIncl_apply {d : ℕ} (μ : Measure (Space d)) [μ.HasTemperateGrowth]
+    (g : 𝓢(Space d, ℂ)) : schwartzIncl μ g = g.toLp 2 μ := rfl
```
Comment (gloges) [inline Physlib/QuantumMechanics/HilbertSpaces/SpaceD/SchwartzSubmodule.lean]: I don't think it's a good idea to have lemmas which "break out" of the `SpaceDHilbertSpace` API back to `Lp ℂ 2 μ`. Below you use this to take advantage of `Lp.toTemperedDistribution_toLp_eq`; I think it would be better to define `SpaceDHilbertSpace` versions of `Lp.toTemperedDistribution` and `Lp.toTemperedDistributionCLM` (like `SpaceDHilbertSpace` and `MemHS` are aliases of `Lp` and `MemLp` with `E = Space d`, `F = ℂ` and `p = 2` fixed) to further flesh out the API and then have a lemma `toTemperedDistribution_schwartzIncl_eq` (probably in the `SchwartzSubmodule` namespace?).

File: Physlib/QuantumMechanics/HilbertSpaces/SpaceD/SobolevSubmodule.lean [hunk 2]
```diff
@@ -0,0 +1,84 @@
...
+
+variable {d : ℕ}
+
+/-!
+## A. The Sobolev submodule `H^s`
+-/
+
+/-- The **Sobolev space** `H^s` as a submodule of `SpaceDHilbertSpace d`: the L² classes whose
+associated tempered distribution satisfies `MemSobolev s 2`. -/
+def sobolevSubmodule (d : ℕ) (s : ℝ) : Submodule ℂ (SpaceDHilbertSpace d) where
```
Comment (gloges) [inline Physlib/QuantumMechanics/HilbertSpaces/SpaceD/SobolevSubmodule.lean]:
```suggestion
def SobolevSubmodule (d : ℕ) (s : ℝ) : Submodule ℂ (SpaceDHilbertSpace d) where
```
c.f. [naming](https://leanprover-community.github.io/contribute/naming.html)

File: Physlib/Mathematics/Distribution/Tempered.lean [hunk 3]
```diff
@@ -0,0 +1,142 @@
...
+  [μ.HasTemperateGrowth] {p : ℝ≥0∞} [Fact (1 ≤ p)]
+
+/-!
+## A. Linearity and injectivity of the embedding
+-/
+
+/-- The embedding of `Lp` into tempered distributions is injective. -/
+lemma toTemperedDistribution_injective [FiniteDimensional ℝ E] [IsLocallyFiniteMeasure μ] :
+    Function.Injective (toTemperedDistribution (E := E) (F := F) (p := p) (μ := μ)) :=
+  LinearMap.ker_eq_bot.mp ker_toTemperedDistributionCLM_eq_bot
```
Comment (gloges) [inline Physlib/Mathematics/Distribution/Tempered.lean]: Similar to my comments in #1432, I think this lemma should be removed as it is simply combining two Mathlib theorems to rephrase `ker_toTemperedDistributionCLM_eq_bot`, which uses linear maps and submodules, in terms of their coersions to the weaker notions of functions and sets.

File: Physlib/QuantumMechanics/HilbertSpaces/SpaceD/SobolevSubmodule.lean [hunk 4]
```diff
@@ -0,0 +1,84 @@
...
+  add_mem' {ψ φ} hψ hφ := by simpa [Lp.toTemperedDistribution_add] using hψ.add hφ
+  zero_mem' := by simp [Lp.toTemperedDistribution_zero]
+  smul_mem' c ψ hψ := by simpa [Lp.toTemperedDistribution_smul] using hψ.smul c
+
+/-- Membership in `H^s` is the Sobolev condition on the associated tempered distribution. -/
+lemma mem_sobolevSubmodule_iff {s : ℝ} {ψ : SpaceDHilbertSpace d} :
+    ψ ∈ sobolevSubmodule d s ↔ MemSobolev s 2 (Lp.toTemperedDistribution ψ) := Iff.rfl
+
+/-- Schwartz maps lie in every Sobolev space `H^s`. -/
+lemma schwartzIncl_mem_sobolevSubmodule (s : ℝ) (g : 𝓢(Space d, ℂ)) :
```
Comment (gloges) [inline Physlib/QuantumMechanics/HilbertSpaces/SpaceD/SobolevSubmodule.lean]:
```suggestion
lemma SobolevSubmodule.schwartzIncl_mem (s : ℝ) (g : 𝓢(Space d, ℂ)) :
```

File: Physlib/QuantumMechanics/HilbertSpaces/SpaceD/SobolevSubmodule.lean [hunk 5]
```diff
@@ -0,0 +1,84 @@
...
+    (schwartzIncl volume g : SpaceDHilbertSpace d) ∈ sobolevSubmodule d s := by
```
Comment (gloges) [inline Physlib/QuantumMechanics/HilbertSpaces/SpaceD/SobolevSubmodule.lean]:
```suggestion
    schwartzIncl volume g ∈ sobolevSubmodule d s := by
```
`schwartzIncl volume g` is already of type `SpaceDHilbertSpace d` so no need to coerce.

File: Physlib/QuantumMechanics/HilbertSpaces/SpaceD/SobolevSubmodule.lean [hunk 6]
```diff
@@ -0,0 +1,84 @@
...
+
+/-- The Schwartz submodule is contained in every Sobolev space `H^s`. -/
+lemma schwartzSubmodule_le_sobolevSubmodule (s : ℝ) :
+    SchwartzSubmodule d ≤ sobolevSubmodule d s := by
+  rintro ψ ⟨g, rfl⟩
+  exact schwartzIncl_mem_sobolevSubmodule s g
+
+/-- Every Sobolev space `H^s` is dense in `SpaceDHilbertSpace d`, containing the dense Schwartz
+submodule. -/
+lemma sobolevSubmodule_dense (s : ℝ) :
```
Comment (gloges) [inline Physlib/QuantumMechanics/HilbertSpaces/SpaceD/SobolevSubmodule.lean]:
```suggestion
lemma SobolevSubmodule.dense (d : ℕ) (s : ℝ) :
```
I think it will be helpful to have `d : ℕ` explicit here, although only time will tell.

File: Physlib/QuantumMechanics/HilbertSpaces/SpaceD/SobolevSubmodule.lean [hunk 7]
```diff
@@ -0,0 +1,84 @@
...
+    Dense (sobolevSubmodule d s : Set (SpaceDHilbertSpace d)) :=
+  (SchwartzSubmodule.dense d volume).mono (schwartzSubmodule_le_sobolevSubmodule s)
+
+/-- The Sobolev spaces shrink as the regularity index grows: `H^s ≤ H^s'` for `s' ≤ s`. -/
+lemma sobolevSubmodule_antitone (d : ℕ) : Antitone (sobolevSubmodule d) :=
```
Comment (gloges) [inline Physlib/QuantumMechanics/HilbertSpaces/SpaceD/SobolevSubmodule.lean]:
```suggestion
lemma SobolevSubmodule.antitone (d : ℕ) : Antitone (SobolevSubmodule d) :=
```

File: Physlib/Mathematics/Distribution/Tempered.lean [hunk 8]
```diff
@@ -0,0 +1,142 @@
...
+@[simp]
+lemma toTemperedDistribution_smul (c : ℂ) (ψ : Lp F p μ) :
+    toTemperedDistribution (c • ψ) = c • toTemperedDistribution ψ :=
+  map_smul (toTemperedDistributionCLM F μ p) c ψ
+
+/-- The embedding `Lp → 𝓢'` sends zero to zero. -/
+@[simp]
+lemma toTemperedDistribution_zero :
+    toTemperedDistribution (0 : Lp F p μ) = 0 :=
+  map_zero (toTemperedDistributionCLM F μ p)
```
Comment (gloges) [inline Physlib/Mathematics/Distribution/Tempered.lean]: I don't think these are needed. If linearity is important then one should be using `toTemperedDistributionCLM` anyways.

e.g. see comment on `def SobolevSubmodule` below

File: Physlib/QuantumMechanics/HilbertSpaces/SpaceD/SobolevSubmodule.lean [hunk 9]
```diff
@@ -0,0 +1,84 @@
...
+## A. The Sobolev submodule `H^s`
+-/
+
+/-- The **Sobolev space** `H^s` as a submodule of `SpaceDHilbertSpace d`: the L² classes whose
+associated tempered distribution satisfies `MemSobolev s 2`. -/
+def sobolevSubmodule (d : ℕ) (s : ℝ) : Submodule ℂ (SpaceDHilbertSpace d) where
+  carrier := {ψ | MemSobolev s 2 (Lp.toTemperedDistribution ψ)}
+  add_mem' {ψ φ} hψ hφ := by simpa [Lp.toTemperedDistribution_add] using hψ.add hφ
+  zero_mem' := by simp [Lp.toTemperedDistribution_zero]
+  smul_mem' c ψ hψ := by simpa [Lp.toTemperedDistribution_smul] using hψ.smul c
```
Comment (gloges) [inline Physlib/QuantumMechanics/HilbertSpaces/SpaceD/SobolevSubmodule.lean]:
```suggestion
  carrier := {ψ | MemSobolev s 2 (Lp.toTemperedDistributionCLM ℂ volume 2 ψ)}
  add_mem' {ψ φ} hψ hφ := by simpa only [Set.mem_setOf_eq, map_add] using hψ.add hφ
  zero_mem' := by simpa only [Set.mem_setOf_eq, map_zero] using memSobolev_fun_zero (Space d) ℂ s 2
  smul_mem' c ψ hψ := by simpa only [Set.mem_setOf_eq, map_smul] using hψ.smul c
```
Modulo my suggestion above to have a `SpaceDHilbertSpace` version avoiding the explicit `F = ℂ`, `p = 2` and reference to `Lp`, defining `SobolevSubmodule` with `toTemperedDistributionCLM` precludes the need for `toTemperedDistribution_add` etc.

File: Physlib/Mathematics/Distribution/Tempered.lean [hunk 10]
```diff
@@ -0,0 +1,142 @@
...
+    ((Lp.memLp u).locallyIntegrable Fact.out) fun t ht_diff ht_supp => ?_
+  set T : 𝓢(E, ℂ) :=
+    (ht_supp.comp_left (g := Complex.ofRealCLM) rfl).toSchwartzMap
+      (Complex.ofRealCLM.contDiff.comp ht_diff) with hT
+  have hT_apply : ∀ x, T x = (t x : ℂ) := fun x => by simp only [hT]; rfl
+  have htest := DFunLike.congr_fun h T
+  rw [smulLeftCLM_apply_apply, toTemperedDistribution_apply, toTemperedDistribution_apply]
+    at htest
+  calc ∫ x, t x • (g • (φ : E → ℂ)) x ∂μ
+      = ∫ x, SchwartzMap.smulLeftCLM ℂ g T x • (φ : E → ℂ) x ∂μ := by
```
Comment (gloges) [inline Physlib/Mathematics/Distribution/Tempered.lean]: [see #1425 comment](https://github.com/leanprover-community/physlib/pull/1425#discussion_r3599464052)

**Review by gloges — COMMENTED** [review]
Thanks, the Sobolev results look good! A few minor suggested changes collect them into a `SobolevSubmodule` namespace. I have more reservations about some of the distribution lemmas and `schwartzIncl_apply`; please let me know what you think.

@jstoobysmith would you mind having a look at (or suggesting someone else to check) the tempered distribution parts which I am less familiar with? For example, should we be using `Physlib.Distribution` instead of Mathlib's `TemperedDistribution`?

File: Physlib/QuantumMechanics/HilbertSpaces/SpaceD/SchwartzSubmodule.lean (hunk 1 above)
Comment (gloges) [reply Physlib/QuantumMechanics/HilbertSpaces/SpaceD/SchwartzSubmodule.lean]: *or `SpaceDHilbertSpace.toDistributionCLM : (SpaceDHilbertSpace d) →L[ℂ] (Space d →d[ℂ] ℂ)`, etc. if `Physlib.Distribution` is preferred (see review comment).

Comment (adambornemann-glitch) [reply Physlib/QuantumMechanics/HilbertSpaces/SpaceD/SchwartzSubmodule.lean]: Agreed, on schwartzIncl_apply. I'll remove it and add SpaceDHilbertSpace.toTemperedDistribution/toTemperedDistributionCLM aliases (fixing E = Space d, F = ℂ, p = 2, mirroring MemHS) plus SchwartzSubmodule.toTemperedDistribution_schwartzIncl_eq, so SobolevSubmodule never leaves the SpaceDHilbertSpace. I'm assuming the best place to put the aliases is at the top of SobolevSubmodule.lean rather than Basic.lean to keep Basic's imports free of distribution machinery.

File: Physlib/QuantumMechanics/HilbertSpaces/SpaceD/SobolevSubmodule.lean (hunk 2 above)
Comment (adambornemann-glitch) [reply Physlib/QuantumMechanics/HilbertSpaces/SpaceD/SobolevSubmodule.lean]: Thank you, this was sloppy of me.

**Comment by adambornemann-glitch** [comment]
-awaiting-author

**Comment by adambornemann-glitch** [comment]
awaiting-author

**Comment by adambornemann-glitch** [comment]
Okay, I think this takes care of the mathlib/physlib distribution issue?  Happy to change it if there are further edits to make.

File: Physlib/QuantumMechanics/HilbertSpaces/SpaceD/SobolevSubmodule.lean [hunk 11]
```diff
@@ -0,0 +1,107 @@
...
+/-- The tempered distribution associated to a state: the alias of `Lp.toTemperedDistribution`
+with `E = Space d`, `F = ℂ` and `p = 2` fixed, as `SpaceDHilbertSpace` is of `Lp`. -/
+noncomputable abbrev toTemperedDistribution (ψ : SpaceDHilbertSpace d μ) : 𝓢'(Space d, ℂ) :=
+  Lp.toTemperedDistribution ψ
+
+/-- The embedding of states into tempered distributions as a continuous linear map: the alias
+of `Lp.toTemperedDistributionCLM` with `E = Space d`, `F = ℂ` and `p = 2` fixed. -/
+noncomputable abbrev toTemperedDistributionCLM (d : ℕ) (μ : Measure (Space d) := volume)
+    [μ.HasTemperateGrowth] : SpaceDHilbertSpace d μ →L[ℂ] 𝓢'(Space d, ℂ) :=
+  Lp.toTemperedDistributionCLM ℂ μ 2
```
Comment (gloges) [inline Physlib/QuantumMechanics/HilbertSpaces/SpaceD/SobolevSubmodule.lean]: I think an appropriate home for these `abbrev`s is between A.4. and A.5. in HilbertSpaces/SpaceD/Basic.lean as a new short section. Properties of these can be fleshed out in the future.

File: Physlib/QuantumMechanics/HilbertSpaces/SpaceD/SobolevSubmodule.lean [hunk 12]
```diff
@@ -0,0 +1,107 @@
...
+
+/-- The tempered distribution of the L² class of a Schwartz map is the map's own tempered
+distribution. -/
+lemma SchwartzSubmodule.toTemperedDistribution_schwartzIncl_eq (g : 𝓢(Space d, ℂ)) :
+    toTemperedDistribution (schwartzIncl μ g) = g.toTemperedDistributionCLM (Space d) ℂ μ :=
+  Lp.toTemperedDistribution_toLp_eq g
```
Comment (gloges) [inline Physlib/QuantumMechanics/HilbertSpaces/SpaceD/SobolevSubmodule.lean]: I think an appropriate home for this is section A of HilbertSpaces/SpaceD/SchwartzSubmodule.lean.

**Review by gloges — COMMENTED** [review]
Two minor suggestions to rehome the tempered distribution stuff (which has wider applicability than just Sobolev spaces), but otherwise looks good to me.

File: Physlib/QuantumMechanics/HilbertSpaces/SpaceD/SobolevSubmodule.lean (hunk 12 above)
Comment (adambornemann-glitch) [reply Physlib/QuantumMechanics/HilbertSpaces/SpaceD/SobolevSubmodule.lean]: moved!

File: Physlib/QuantumMechanics/HilbertSpaces/SpaceD/SobolevSubmodule.lean (hunk 11 above)
Comment (adambornemann-glitch) [reply Physlib/QuantumMechanics/HilbertSpaces/SpaceD/SobolevSubmodule.lean]: moved!

**Comment by adambornemann-glitch** [comment]
-awaiting-author

File: Physlib/QuantumMechanics/HilbertSpaces/SpaceD/Basic.lean [hunk 13]
```diff
@@ -215,7 +216,23 @@ lemma coeFn_smul : ⇑(c • ψ) =ᵐ[μ] c • ψ := Lp.coeFn_smul _ _
 end
 
 /-!
-### A.5. Misc.
+### A.5. Tempered Distribution
+-/
+variable {d : ℕ} {μ : Measure (Space d)}
+
+/-- The tempered distribution associated to a state: the alias of `Lp.toTemperedDistribution`
+with `E = Space d`, `F = ℂ` and `p = 2` fixed, as `SpaceDHilbertSpace` is of `Lp`. -/
```
Comment (gloges) [inline Physlib/QuantumMechanics/HilbertSpaces/SpaceD/Basic.lean]: I think we should remove "the alias of ..." since these are just implementation details.

File: Physlib/QuantumMechanics/HilbertSpaces/SpaceD/Basic.lean [hunk 14]
```diff
@@ -215,7 +216,23 @@ lemma coeFn_smul : ⇑(c • ψ) =ᵐ[μ] c • ψ := Lp.coeFn_smul _ _
...
+noncomputable abbrev toTemperedDistribution [μ.HasTemperateGrowth]
```
Comment (gloges) [inline Physlib/QuantumMechanics/HilbertSpaces/SpaceD/Basic.lean]: Can remove `noncomputable` here since we are in a `noncomputable section`.

File: Physlib/QuantumMechanics/HilbertSpaces/SpaceD/Basic.lean [hunk 15]
```diff
@@ -215,7 +216,23 @@ lemma coeFn_smul : ⇑(c • ψ) =ᵐ[μ] c • ψ := Lp.coeFn_smul _ _
...
+    (ψ : SpaceDHilbertSpace d μ) : 𝓢'(Space d, ℂ) := Lp.toTemperedDistribution ψ
+
+/-- The embedding of states into tempered distributions as a continuous linear map: the alias
+of `Lp.toTemperedDistributionCLM` with `E = Space d`, `F = ℂ` and `p = 2` fixed. -/
```
Comment (gloges) [inline Physlib/QuantumMechanics/HilbertSpaces/SpaceD/Basic.lean]: As above.

File: Physlib/QuantumMechanics/HilbertSpaces/SpaceD/Basic.lean [hunk 16]
```diff
@@ -215,7 +216,23 @@ lemma coeFn_smul : ⇑(c • ψ) =ᵐ[μ] c • ψ := Lp.coeFn_smul _ _
...
+noncomputable abbrev toTemperedDistributionCLM (d : ℕ) (μ : Measure (Space d) := volume)
```
Comment (gloges) [inline Physlib/QuantumMechanics/HilbertSpaces/SpaceD/Basic.lean]: As above.

File: Physlib/QuantumMechanics/HilbertSpaces/SpaceD/Basic.lean [hunk 17]
```diff
@@ -215,7 +216,23 @@ lemma coeFn_smul : ⇑(c • ψ) =ᵐ[μ] c • ψ := Lp.coeFn_smul _ _
 end
 
 /-!
-### A.5. Misc.
+### A.5. Tempered Distribution
+-/
+variable {d : ℕ} {μ : Measure (Space d)}
```
Comment (gloges) [inline Physlib/QuantumMechanics/HilbertSpaces/SpaceD/Basic.lean]:
```suggestion
```
These are duplicates.

**Review by gloges — COMMENTED** [review]
Sorry, just a few minor nitpicks to clean things up.

**Comment by adambornemann-glitch** [comment]
I think I got everything.
-awaiting-author

**Review by gloges — APPROVED** [review]
Looks good - thanks again!
